* gnetlist -g spice-sdb -o d-master-slave.net d-master-slave.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from nand.lib vvvvvvvv
.SUBCKT NAND IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ7 OUT IN1 2 2 nMOSe 
MQ8 2 IN2 GND GND nMOSe 
MQ6 OUT IN2 Vcc Vcc pMOSe 
MQ5 OUT IN1 Vcc Vcc pMOSe 
.ENDS NAND
*^^^^^^^^  End of included SPICE model from nand.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.ic v(CLR)=0
C1 0 CLR 0.1u  
XU13 9 9 2 Vcc 0 NAND
XU12 4 CLR 9 Vcc 0 NAND
R1 CLR Vcc 10k  
XU10 Clock Clock 5 Vcc 0 NAND
XU3 Data Data 8 Vcc 0 NAND
XU4 5 8 7 Vcc 0 NAND
XU1 Data 5 6 Vcc 0 NAND
XU5 S 7 R Vcc 0 NAND
XU2 6 R S Vcc 0 NAND
XU11 5 5 3 Vcc 0 NAND
XU8 3 R 4 Vcc 0 NAND
XU6 S 3 1 Vcc 0 NAND
XU9 Q 2 nQ Vcc 0 NAND
XU7 1 nQ Q Vcc 0 NAND
V3 Clock 0 pwl 1 0 {1+1p} 3 2 3 {2+1p} 0 4 0 {4+1p} 3 5 3 {5+1p} 0 7 0 {7+1p} 3 9 3 {9+1p} 0
V2 Data 0 pwl 3 0 {3+1p} 3 6 3 {6+1p} 0 8 0 {8+1p} 3
V1 Vcc 0 3
.end
