.SUBCKT NOR IN1 IN2 OUT Vcc GND
.model nMOSe nmos (vto=1)
.model pMOSe pmos (vto=-1)
MQ3 OUT IN2 GND GND nMOSe
MQ4 OUT IN1 GND GND nMOSe
MQ1 1 IN2 Vcc Vcc pMOSe
MQ2 OUT IN1 1 1 pMOSe
.ENDS NOR