******
* Spice Model
* Item: 1N4107
* Date: 4/28/14
* Revision History: REV A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=1N4107;1N4107;Diodes;Zener 10V-50V;13.0V  0.250W  Central Semi Central Semi
*SYM=HZEN
.SUBCKT 1N4107  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 12.0
.MODEL DF D ( IS=7.92p RS=2.09 N=1.10
+ CJO=31.4p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.58f RS=46.0 N=1.49 )
.ENDS
******
