* gnetlist -g spice-sdb -o compensation.net compensation.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 1N4107.LIB vvvvvvvv
******
* Spice Model
* Item: 1N4107
* Date: 4/28/14
* Revision History: REV A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=1N4107;1N4107;Diodes;Zener 10V-50V;13.0V  0.250W  Central Semi Central Semi
*SYM=HZEN
.SUBCKT 1N4107  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 12.0
.MODEL DF D ( IS=7.92p RS=2.09 N=1.10
+ CJO=31.4p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.58f RS=46.0 N=1.49 )
.ENDS
******
*^^^^^^^^  End of included SPICE model from 1N4107.LIB ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from 2N2222.LIB vvvvvvvv
******
* Spice Model
* Item: 2N2222
* Date: 5/06/2014
* Revision History: A
*==========================================================
* This model was developed by: 
* Central Semiconductor Corp.
* 145 Adams Avenue
* Hauppauge, NY 11788
*
* These models are subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be modified, or altered without the consent of Central Semiconductor Corp. 
*
* For more information on this model contact
* Central Semiconductor Corp. at:
* (631) 435-1110 or Engineering@centralsemi.com
* http://www.centralsemi.com
*==========================================================
******
*SRC=2N2222;2N2222;BJTs NPN; Si;  60V  0.800A  250MHz   Central Semi Central Semi
.MODEL 2N2222  NPN (IS=2.20f NF=1.00 BF=240 VAF=114
+ IKF=0.293 ISE=2.73p NE=2.00 BR=4.00 NR=1.00
+ VAR=24.0 IKR=0.600 RE=0.194 RB=0.777 RC=77.7m
+ XTB=1.5 CJE=24.9p VJE=1.10 MJE=0.500 CJC=12.4p VJC=0.300
+ MJC=0.300 TF=371p TR=64.0n EG=1.12 )
******
*^^^^^^^^  End of included SPICE model from 2N2222.LIB ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from 2N5686.LIB vvvvvvvv
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Feb 20, 03
* MODEL FORMAT: PSpice
.MODEL Q2n5686 npn
+IS=5.08491e-10 BF=118.495 NF=1.09689 VAF=8.40338
+IKF=8.29427 ISE=4e-12 NE=3.8125 BR=2.95802
+NR=1.22397 VAR=19.6199 IKR=7.63964 ISC=5.5e-13
+NC=3.9375 RB=2.01968 IRB=0.0914106 RBM=0.0928857
+RE=9.35428e-05 RC=0.0242599 XTB=1.88681 XTI=1.01268
+EG=1.05 CJE=3.6623e-09 VJE=0.4 MJE=0.430208
+TF=1.00023e-08 XTF=7.94968 VTF=10.3944 ITF=0.00100001
+CJC=2.93981e-09 VJC=0.0229324 MJC=0.235406 XCJC=0.799979
+FC=0.800006 CJS=0 VJS=0.75 MJS=0.5
+TR=3.60318e-07 PTF=0 KF=0 AF=1


*^^^^^^^^  End of included SPICE model from 2N5686.LIB ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
R2 2 OUT 1k  
Q1 4 1 OUT Q2n5686 
R4 0 3 10k  
R3 3 OUT 68k  
R5 0 OUT 1g  
V2 4 0 42
R1 4 1 4.3k  
X1 2 0 1N4107
Q2 1 3 2 2N2222 
.end
